US03962248
1. 1-benzyl-4-tert-butyl piperazine
A solution of 2000 g of bis-(2-chloroethyl)-tert-butylamine in 500 cc of ethanol and a solution of 1095 g of benzylamine in 750 cc of ethanol are simultaneously added dropwise to 1000 cc of boiling ethanol. After the addition is complete, the reaction mixture is heated to the boil for 1 hour. The mixture is subsequently concentrated in a vacuum and the residue is dissolved in dilute hydrochloric acid. The acid solution is washed with ether and is subsequently rendered alkaline with a concentrated, aqueous sodium hydroxide solution. The liberated base is extracted with ether and the ether residue is distilled. 1-benzyl-4-tert-butyl piperazine has a B.P. of 160°-162° at 12 mm of Hg.

reactant | bis-(2-chloroethyl)-tert-butylamine | 2000 g | ClCCN(C(C)(C)C)CCCl | C8H17Cl2N
reactant | benzylamine | 1095 g | C(C1=CC=CC=C1)N | C7H9N
solvent | ethanol | 500 cc | C(C)O | C2H6O
solvent | ethanol | 750 cc | C(C)O | C2H6O
solvent | ethanol | 1000 cc | C(C)O | C2H6O
product | 1-benzyl-4-tert-butyl piperazine | C(C1=CC=CC=C1)N1CCN(CC1)C(C)(C)C | C15H24N2
